US04362740
5-Morpholinosulfonylspiro[benzo[b]thiophene-2(3H),1'-cyclopropan]-3-one was prepared by a similar procedure to that of Example 8 except for the use of 5-morpholinosulfonyl-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]3,2'-dione obtained in Reference Example 18. Colorless needles (from acetone --H2O), mp 162.5°-165° C. Anal. Calcd. for C14H15NO4S: C, 51.67; H, 4.65; N, 4.31. Found: C, 51.45; H, 4.55; N, 4.41.

reactant | 5-morpholinosulfonyl-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]3,2'-dione | O1CCN(CC1)S(=O)(=O)C1=CC2=C(SC3(C(OCC3)=O)C2=O)C=C1 | C15H15NO6S2
reactant | acetone | CC(=O)C | C3H6O
solvent | H2O | O | H2O
product | 5-Morpholinosulfonylspiro[benzo[b]thiophene-2(3H),1'-cyclopropan]-3-one | O1CCN(CC1)S(=O)(=O)C1=CC2=C(SC3(CC3)C2=O)C=C1 | C14H15NO4S2
